US06689922B1
7-[4-(3,4-bis-Hydroxymethylbenzyloxy)phenyl]-3-ethyl-3-octanol
In a manner similar to Example 53(e), by reacting 607 mg (1.33 mmol) of dimethyl 4-[4-(5-ethyl-5-hydroxy-1-methylheptyl)phenoxymethyl]phthalate (prepared in a manner similar to Examples 64(a-d)) with 116 mg (5.32 mmol) of lithium borohydride, a colourless oil is obtained (m=421 mg; Y=79%).

reactant | dimethyl 4-[4-(5-ethyl-5-hydroxy-1-methylheptyl)phenoxymethyl]phthalate | 1.33 mmol, 607 mg | C(C)C(CCCC(C)C1=CC=C(OCC=2C=C(C(C(=O)OC)=CC2)C(=O)OC)C=C1)(CC)O | C27H36O6
reactant | lithium borohydride | 5.32 mmol, 116 mg | [BH4-].[Li+]
product | 7-[4-(3,4-bis-Hydroxymethylbenzyloxy)phenyl]-3-ethyl-3-octanol | OCC=1C=C(COC2=CC=C(C=C2)C(CCCC(CC)(O)CC)C)C=CC1CO | C25H36O4
